US07582631B2
Benzyl-{4-[5-(5-isopropyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-amine
The title compound was analogously synthesized by the method described in Example 55 with the addition of one step. To a solution of benzyl-(4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)imidazo[1,2-c]pyrimidin-7-yl]pyridin-2-yl)amine (0.400 g) was added chloroform (4 mL) followed by acetone (5 mL), and sodium triacetoxy borohydride (0.600 mg) at 70° C. After 30 min, work up between dichloromethane and sodium bicarbonate followed by flash column purification afforded the title compound as an off white solid. MS (ES+): 440 (M+H)+; (ES−): 438(M−H)−.

reactant | benzyl-(4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)imidazo[1,2-c]pyrimidin-7-yl]pyridin-2-yl)amine | 0.400 g | C(C1=CC=CC=C1)NC1=NC=CC(=C1)C1=CC=2N(C(=N1)N1C3CNC(C1)C3)C=CN2 | C23H23N7
reactant | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sodium triacetoxy borohydride | 0.600 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | Benzyl-{4-[5-(5-isopropyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-amine | C(C1=CC=CC=C1)NC1=NC=CC(=C1)C1=CC=2N(C(=N1)N1[C@@H]3CN([C@H](C1)C3)C(C)C)C=CN2 | C26H29N7
